US06410592B1
Step E: 2-(N-Benzylmethylamino)methyl-6-fluoro-1-phenyl-1,2,3,4-tetrahydronaphthalene-1-ol
Phenylmagnesium bromide (3 M solution in diethyl ether, 9 cm3) was added to dry diethyl ether (20 cm3) under nitrogen with stirring. This was then cooled to below 0° C. (salt-ice bath) and 2-(N-benzylmethylamino)methyl-6-fluoro-3,4-dihydro-2H-naphthalene-1-one hydrochloride was added in small portions at such a rate as to maintain the temperature below 0° C. (approx. 15 mins). The reaction mixture was stirred for a further 1 h at 0° C. and then poured onto ice. Water (100 cm3) and diethyl ether (100 cm3) were added and the aqueous layer was separated and extracted with further diethyl ether (100 cm3). The combined ether layers were extracted with hydrochloric acid (5 M, 3×50 cm3). The acidic extracts were basified (K2CO3) and re-extracted with dichloromethane (3×75 cm3). The combined extracts were dried (Na2SO4) and the solvent was removed under reduced pressure to provide the title compound (1.55 g) as a brown oil which solidified on standing.

reactant | Phenylmagnesium bromide | 3 M, 9 cm3 | C1(=CC=CC=C1)[Mg]Br
reactant | 2-(N-benzylmethylamino)methyl-6-fluoro-3,4-dihydro-2H-naphthalene-1-one hydrochloride | Cl.C(C1=CC=CC=C1)CNCC1C(C2=CC=C(C=C2CC1)F)=O
reactant | Water | 100 cm3 | O | H2O
solvent | diethyl ether | 100 cm3 | C(C)OCC | C4H10O
solvent | diethyl ether | 20 cm3 | C(C)OCC | C4H10O
product | 2-(N-Benzylmethylamino)methyl-6-fluoro-1-phenyl-1,2,3,4-tetrahydronaphthalene-1-ol | 1.55 g | C(C1=CC=CC=C1)CNCC1C(C2=CC=C(C=C2CC1)F)(O)C1=CC=CC=C1 | C25H26FNO
